US08217028B2
Hydroxylamine hydrochloride (172 mg) and sodium bicarbonate (415 mg) was added to a solution of ethyl 5-cyano-1H-indole-2-carboxylate (D21) (265 mg) in EtOH (15 mL), in that sequence. The reaction mixture was heated to 55° C. and stirred for 16 hours at that temperature. Another portion of hydroxylamine hydrochloride (69.4 mg) was added, followed by addition of sodium bicarbonate (125.5 mg). The resulting suspension was stirred at 55° C. for 12 hours. The inorganics was filtered off. The solid was washed with dichloromethane (30 mL) and methanol (30 mL). The filtrate was concentrated to afford ethyl 5-[(hydroxyamino)(imino)methyl]-1H-indole-2-carboxylate (D22) (280 mg) as a yellow solid. No purification was attempted. MS (ES): C12H13N3O3 requires 247; found 248.1 (M+H+).

reactant | Hydroxylamine hydrochloride | 172 mg | Cl.NO
reactant | sodium bicarbonate | 415 mg | C([O-])(O)=O.[Na+]
reactant | ethyl 5-cyano-1H-indole-2-carboxylate | 265 mg | C(#N)C=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H10N2O2
reactant | hydroxylamine hydrochloride | 69.4 mg | Cl.NO
reactant | sodium bicarbonate | 125.5 mg | C([O-])(O)=O.[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | ethyl 5-[(hydroxyamino)(imino)methyl]-1H-indole-2-carboxylate | 280 mg | ONC(C=1C=C2C=C(NC2=CC1)C(=O)OCC)=N | C12H13N3O3
